US07741341B2
(iii) 1H-Benzoimidazole-2-carboxylic acid (1-pyrimidin-4-yl-piperidin-4-yl)-amide
To a solution of 80 mg 1H-Benzoimidazole-2-carboxylic acid in 1 mL DMF and 0.2 mL NEt3, 200 mg 1-Pyrimidin-4-yl-piperidin-4-ylamine trifluoroacetate and 125 mg BOP-Cl were added and the mixture was stirred for 3 h. Finally, 3 mL saturated NaHCO3 solution were added and the mixture was filtered through a chem elut® cartridge by elution with ethyl acetate. After removal of the solvent under reduced pressure the crude product was subjected to the next reaction step without further purification. Yield: 160 mg.

reactant | 1H-Benzoimidazole-2-carboxylic acid | 80 mg | N1C(=NC2=C1C=CC=C2)C(=O)O | C8H6N2O2
reactant | 1-Pyrimidin-4-yl-piperidin-4-ylamine trifluoroacetate | 200 mg | FC(C(=O)O)(F)F.N1=CN=C(C=C1)N1CCC(CC1)N
reactant | BOP-Cl | 125 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | NaHCO3 | 3 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | NEt3 | 0.2 mL | CCN(CC)CC | C6H15N
product | 1H-Benzoimidazole-2-carboxylic acid (1-pyrimidin-4-yl-piperidin-4-yl)-amide | N1=CN=C(C=C1)N1CCC(CC1)NC(=O)C1=NC2=C(N1)C=CC=C2 | C17H18N6O
